US08252781B2
Preparation of 2-cyclohexyl-1-(2,3-dichlorobenzyl)-4,4-dimethyl-1,2-diazetidin-3-one
2-Cyclohexyl-4,4-dimethyl-1,2-diazetidin-3-one prepared in Process 5 of Example 68, and 2,3-dichlorobenzyl bromide were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a pale yellow oil.

reactant | 2-Cyclohexyl-4,4-dimethyl-1,2-diazetidin-3-one | C1(CCCCC1)N1NC(C1=O)(C)C | C10H18N2O
reactant | 2,3-dichlorobenzyl bromide | ClC1=C(CBr)C=CC=C1Cl | C7H5BrCl2
product | 2-cyclohexyl-1-(2,3-dichlorobenzyl)-4,4-dimethyl-1,2-diazetidin-3-one | C1(CCCCC1)N1N(C(C1=O)(C)C)CC1=C(C(=CC=C1)Cl)Cl | C17H22Cl2N2O
